US07781431B2
Step 11: methyl 4-(tert-butoxycarbonyl)-5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.1 M) of methyl 5-bromo-4-(tert-butoxycarbonyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in EtOH/toluene (1:1) was treated with 4-chlorophenylboronic acid (1.3 eq.) and LiCl (2 eq.). Aqueous Na2CO3 (2 N, 2.5 eq.) was added and the solution was degassed, then Pd(PPh3)4 (0.1 eq.) was added. The mixture was heated to 80° C. for 18 h, then cooled and diluted with AcOEt. The organic phase was washed sequentially with water, aqueous HCl (1 N) and brine, then dried and concentrated giving a residue that was purified by flash chromatography on silica gel (1:9 AcOEt/petroleum ether) to afford the title compound (69%) as a solid.

reactant | methyl 5-bromo-4-(tert-butoxycarbonyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.1 M | BrC1=C(C2=C(N1C(=O)OC(C)(C)C)C=C(S2)C(=O)OC)C2CCCCC2 | C19H24BrNO4S
reactant | 4-chlorophenylboronic acid | 1.3 eq. | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | LiCl | 2 eq. | [Li+].[Cl-]
reactant | Na2CO3 | 2 N, 2.5 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH toluene | CCO.C1(=CC=CC=C1)C
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(tert-butoxycarbonyl)-5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 69% | C(C)(C)(C)OC(=O)N1C2=C(C(=C1C1=CC=C(C=C1)Cl)C1CCCCC1)SC(=C2)C(=O)OC | C25H28ClNO4S
